US05721359
The preparation of crystalline ceftiofur hydrochloride is considered to involve a typical crystallization. Several methods for the preparation of ceftiofur hydrochloride are described in U.S. Pat. No. 4,902,683. In one readily used method, once the hydrochloride salt is obtained by adding hydrochloric acid to a water/acetone solution of ceftiofur, the resulting solution is cooled slowly to obtain crystalline ceftiofur hydrochloride.

reactant | hydrochloric acid | Cl | ClH
reactant | ceftiofur | CO/N=C(/C1=CSC(=N1)N)\C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)CSC(=O)C4=CC=CO4)C(=O)O | C19H17N5O7S3
solvent | water acetone | O.CC(=O)C
product | ceftiofur hydrochloride | CO/N=C(/C1=CSC(=N1)N)\C(=O)N[C@H]2[C@@H]3N(C2=O)C(=C(CS3)CSC(=O)C4=CC=CO4)C(=O)O.Cl | InChI=1S/C19H17N5O7S3.ClH/c1-30-23-11(9-7-34-19(20)21-9)14(25)22-12-15(26)24-13(17(27)28)8(5-32-16(12)24)6-33-18(29)10-3-2-4-31-10;/h2-4,7,12,16H,5-6H2,1H3,(H2,20,21)(H,22,25)(H,27,28);1H/b23-11-;/t12-,16-;/m1./s1
